US08809382B2
Step 4: 5-(6-Chloro-2-hexyl-indol-1-yl)-3-(S)-methyl-5-oxo-pentanoic acid
To the cold solution of 5-(6-Chloro-2-hexyl-indol-1-yl)-3-(S)-methyl-5-oxo-pentanoic acid 2-trimethylsilanyl-ethyl ester in methylene chloride was added trifluoro acetic acid and was stirred for three days. The reaction mixture was then treated with water and ethyl acetate. The product was purified by column chromatography.

reactant | 5-(6-Chloro-2-hexyl-indol-1-yl)-3-(S)-methyl-5-oxo-pentanoic acid 2-trimethylsilanyl-ethyl ester | C[Si](CCOC(C[C@H](CC(=O)N1C(=CC2=CC=C(C=C12)Cl)CCCCCC)C)=O)(C)C | C25H38ClNO3Si
reactant | trifluoro acetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-(6-Chloro-2-hexyl-indol-1-yl)-3-(S)-methyl-5-oxo-pentanoic acid | ClC1=CC=C2C=C(N(C2=C1)C(C[C@@H](CC(=O)O)C)=O)CCCCCC | C20H26ClNO3
